US06982274B2
7-Fluoro-3-(3-fluorophenyl)-1-trityl-1H-indazol-5-ylamine
To a solution of 1.0 g of 7-fluoro-3-(3-fluorophenyl)-1-trityl-1H-indazole-5-carboxylic acid in 20 ml toluene at room temperature were added 0.40 ml of triethylamine and 0.46 ml of diphenylphosphoryl azide, the mixture was stirred at the same temperature for 2 hours and at 120° C. for 1.5 hours. To the reaction mixture was added 1.0 ml of benzyl alcohol, followed by stirring at 120° C. for 1.5 hours. After cooling to room temperature, water was added to the reaction mixture was and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and the solvent was evaporated. To a solution of the resulting crude product in a solvent mixture of 20 ml of methanol and 10 ml of tetrahydrofuran was added 1.0 g of 10% palladium-carbon at room temperature, and the mixture was subjected to catalytic hydrogenation at the same temperature and at normal atmospheric pressure. After stirring for 4 hours, the reaction mixture was filtrated through Celite, the filtrate was evaporated, and the residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 540 mg of the title compound.

reactant | 7-fluoro-3-(3-fluorophenyl)-1-trityl-1H-indazole-5-carboxylic acid | 1.0 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)C(=O)O | C33H22F2N2O2
reactant | triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.46 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.0 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-Fluoro-3-(3-fluorophenyl)-1-trityl-1H-indazol-5-ylamine | 540 mg | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)N | C32H23F2N3
